US08236806B2
1-(3-(1-tert-butyl-5-p-tolyl-1H-pyrazol-3-yl)propyl)-4-(bis(4-fluorophenyl)methyl)piperazine (Compound 30)
111 mg (86%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-5-p-tolyl-1H-pyrazol-3-yl)propanal (60 mg, 0.222 mmol), 1-(bis(4-fluorophenyl)methyl)piperazine (64 mg, 0.222 mmol), DIPEA (0.06 mL, 0.333 mmol) and NaBH(OAc)3 (141 mg, 0.666 mmol).

reactant | 3-(1-tert-butyl-5-p-tolyl-1H-pyrazol-3-yl)propanal | 0.222 mmol, 60 mg | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)C)CCC=O | C17H22N2O
reactant | 1-(bis(4-fluorophenyl)methyl)piperazine | 0.222 mmol, 64 mg | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | DIPEA | 0.333 mmol, 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.666 mmol, 141 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(1-tert-butyl-5-p-tolyl-1H-pyrazol-3-yl)propyl)-4-(bis(4-fluorophenyl)methyl)piperazine | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)C)CCCN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C34H40F2N4
